US06703392B2
2-[(1S)-1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-[(1S,2R)-2-hydroxy-indan-1-yl]-acetamide:
prepared by reaction of (1S)-1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with (1S,2R)-1-amino-2-indanol

reactant | (1S)-1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(C[C@@H]2NCCC3=CC(=C(C=C23)OC)OC)C=CC1OC | C20H25NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | (1S,2R)-1-amino-2-indanol | N[C@@H]1[C@@H](CC2=CC=CC=C12)O | C9H11NO
product | 2-[(1S)-1-(3,4-Dimethoxy-benzyl)-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-[(1S,2R)-2-hydroxy-indan-1-yl]-acetamide | COC=1C=C(C[C@@H]2N(CCC3=CC(=C(C=C23)OC)OC)CC(=O)N[C@@H]2[C@@H](CC3=CC=CC=C23)O)C=CC1OC | C31H36N2O6
